US08835488B2
Allyltrimethylsilane (4.34 ml, 27.2 mmol) was added to a solution of 2,2-dimethyl-4-(4-methylphenyl)oxan-4-ol (3.0 g, 13.6 mmol) in dry CH2Cl2 (100 ml) at 0° C., followed by BF3—OEt2 (3.42 ml, 27.2 mmol). The resulting mix was stirred at 0° C. for 1 h. The reaction was quenched with H2O (10 ml) and diluted with CH2Cl2 (10 ml), and washed with sat. NaHCO3 (20 ml), brine (20 ml), dried and concentrated. Purified by normal phase SiO2 chromatography (5 to 40% EtOAc/hexanes) to give 2,2-dimethyl-4-(4-methylphenyl)-4-(prop-2-en-1-yl)oxane as a colorless oil, which was used crude (2.49 g, 75%).

reactant | Allyltrimethylsilane | 27.2 mmol, 4.34 ml | C(C=C)[Si](C)(C)C | C6H14Si
reactant | 2,2-dimethyl-4-(4-methylphenyl)oxan-4-ol | 13.6 mmol, 3.0 g | CC1(OCCC(C1)(O)C1=CC=C(C=C1)C)C | C14H20O2
reactant | BF3 OEt2 | 27.2 mmol, 3.42 ml | B(F)(F)F.O(CC)CC
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-4-(4-methylphenyl)-4-(prop-2-en-1-yl)oxane | CC1(OCCC(C1)(CC=C)C1=CC=C(C=C1)C)C | C17H24O
